US07041696B2
Preparation of 5-allyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (4):
To a solution of 5-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester, 3, (9.86 g, 38.0 mmol) and allyltrimethylsilane (13.0 g, 114 mmol) in CH2Cl2 (200 mL) at −78° C. is added dropwise boron trifluoride etherate (4.82 mL, 38.0 mmol). Once consumption of the starting material is complete, water is cautiously added to quench the reaction. The resulting solution is taken up in ethyl acetate (200 mL) washed with water (1×250 mL), brine (1×250 mL), and dried with Na2SO4. The organics are concentrated in vacuo. The resulting residue is purified over silica (hexanes/ethyl acetate 85:15) to afford 6.2 g (61% yield) of the desired product as a light yellow oil. 1H-NMR (300 MHz, CDCl3): δ 5.85–5.70 (m, 1H), 5.09–5.00 (m, 2H), 4.31–4.16 (m, 1H), 3.95–3.76 (br m, 1H), 3.71–3.69 (m, 3H), 2.72–2.57 (br m, 1H), 2.24–1.69 (m, 5H), 1.45–1.38 (m, 9H); MS (ESI): m/e=270.11 (M+H).

reactant | 5-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CC1)OC)C(=O)OC(C)(C)C | C12H21NO5
reactant | allyltrimethylsilane | 114 mmol, 13.0 g | C(C=C)[Si](C)(C)C | C6H14Si
reactant | boron trifluoride etherate | 38.0 mmol, 4.82 mL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-allyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 6.2 g, 61% yield | COC(=O)C1N(C(CC1)OCC=C)C(=O)OC(C)(C)C | C14H23NO5
